US08030306B2
To a round bottom flask was added 2-chloro-N′-(4-(4-chlorophenyl)-5-(4-cyanophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-1,6-dihydropyridazin-3-yl)acetohydrazide (400 mg, 0.681 mmol) and toluene (10 ml). The mixture was heated at 120° C. for 5 min. After this time, POCl3(1.5 ml) was added and the reaction was stirred at 120° C. for an additional 6 hr. The reaction mixture was then cooled to room temperature and concentrated to dryness under reduced pressure. The resulting residue was dissolved in EtOAc (50 ml) and washed with saturated NaHCO3(20 ml), water (20 ml), and saturated NaCl (20 ml). The organic layer was dried (MgSO4), filtered and concentrated. The residue was purified using an ISCO automated chromatography system (12 g silica gel, 20%-40% EtOAc/Hex) to give the product 4-(3-(chloromethyl)-8-(4-chlorophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile (210 mg) as an off-white solid (54% yield). HPLC retention time 3.148 min (Method A); LCMS (M+1)=569.0.

reactant | 2-chloro-N′-(4-(4-chlorophenyl)-5-(4-cyanophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-1,6-dihydropyridazin-3-yl)acetohydrazide | 0.681 mmol, 400 mg | ClCC(=O)NNC1=NN(C(C(=C1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)C#N)=O)CC=1C(=NC(=CC1)C(F)(F)F)C | C27H19Cl2F3N6O2
reactant | POCl3 | 1.5 ml | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3-(chloromethyl)-8-(4-chlorophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile | 210 mg, 54% yield | ClCC1=NN=C2N1N(C(C(=C2C2=CC=C(C=C2)Cl)C2=CC=C(C#N)C=C2)=O)CC=2C(=NC(=CC2)C(F)(F)F)C | C27H17Cl2F3N6O
